US07585874B2
a) 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid
To a solution of 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester (1.2 g, 3.6 mmol) in THF (9.9 mL), water (9.9 mL) and methanol (2.2 mL) was added lithium hydroxide monohydrate (302 mg, 7.2 mmol) and the resulting mixture stirred vigorously overnight. The mixture was then evaporated and acidified with hydrochloric acid (1 N) and then extracted with ethyl acetate. The combined organic layers were then washed with water and brine, dried over sodium sulphate and evaporated to leave a yellow solid. Purification by trituration with heptane afforded the title compound (764 mg, 66%) which was obtained as a yellow solid. MS: m/e=318.1 [M−H]−.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester | 3.6 mmol, 1.2 g | COC(=O)C1=CC=2N(C=C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C19H15N3O3
reactant | lithium hydroxide monohydrate | 7.2 mmol, 302 mg | O.[OH-].[Li+]
solvent | THF | 9.9 mL | C1CCOC1 | C4H8O
solvent | water | 9.9 mL | O | H2O
solvent | methanol | 2.2 mL | CO | CH4O
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid | 764 mg, 66% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=CC(=C2)C(=O)O)C1 | C18H13N3O3
